US05773530
To a solution of oxalyl chloride (160 μl) in dichloromethane (10 ml) was added dropwise in turn with dimethyl sulfoxide (210 μl), a solution of 3-[2-(3-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (366 mg) in dichloromethane (10 ml) and triethylamine (663 μl) at -70° C. under nitrogen atmosphere. A reaction mixture was allowed to warm to ambient temperature and diluted with ethyl acetate (100 ml), which was washed in turn with 1N-aqueous hydrochloric acid (50 ml×2), brine (50 ml), saturated sodium hydrogen carbonate in water (50 ml) and brine (50 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel eluting in turn with 30% and 50% ethyl acetate in dichloromethane. Fractions containing desired product were combined and concentrated in vacuo to give solid, which was recrystallized from ethanol to give 3-[2-(3-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (310 mg).

reactant | oxalyl chloride | 160 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 210 μl | CS(=O)C | C2H6OS
reactant | 3-[2-(3-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 366 mg | OC1CC(CCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H22N4O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylamine | 663 μl | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-(3-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 310 mg | O=C1CC(CCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H20N4O2
